US07229999B2
6-Cyclopropylmethoxy-5-(2,4-dichloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 11, using 5-bromo-6-chloro-nicotinic acid methylester, cyclopropyl-methanol (commercially available), 2,4-dichlorophenyl-boronic acid (commercially available), and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (m/e): 435.3 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methylester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | cyclopropyl-methanol | C1(CC1)CO | C4H8O
reactant | 2,4-dichlorophenyl-boronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 6-Cyclopropylmethoxy-5-(2,4-dichloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=C(C=C(C=C1)Cl)Cl | C22H24Cl2N2O3
